US04633024
Disodium 2-hydroxynaphthalene-3,6-disulfonate (348 g) was added to 176 g of a 50% aqueous solution of sodium hydroxide, and the mixture was stirred. Then, 900 g of a hydrogenated triphenyl mixture was mixed, and the resulting mixture was dehydrated. The dehydrated mixture was reacted at 270° C. for 1.5 hours in a nitrogen stream. After cooling, 2 liters of water was added to the reaction mixture to separate the reaction medium layer. The aqueous layer was decolorized with activated carbon, and then precipitated with an acid to give 231 g (yield 96.3%) of 2,3-dihydroxynaphthalene-6-sulfonic acid.

reactant | Disodium 2-hydroxynaphthalene-3,6-disulfonate | 348 g | OC1=CC2=CC=C(C=C2C=C1S(=O)(=O)[O-])S(=O)(=O)[O-].[Na+].[Na+]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | 2 liters | O | H2O
product | 2,3-dihydroxynaphthalene-6-sulfonic acid | 231 g, yield 96.3% | OC1=CC2=CC=C(C=C2C=C1O)S(=O)(=O)O | C10H8O5S
